US08349886B2
5-(2-methylprop-1-en-1-yl)pyridine-2-carbaldehyde
Under a nitrogen atmosphere, 2.0M tetrahydrofuran solution (11.2 mL) of butylmagnesium chloride was diluted with tetrahydrofuran (200 mL). The solution was cooled to −10° C., 1.6M hexane solution (28.1 mL) of n-butyllithium was added dropwise thereto, and the mixture was stirred at −10° C. for 10 min. To the reaction solution was added dropwise a solution (50 mL) of 2-bromo-5-(2-methylprop-1-en-1-yl)pyridine (11.9 g) in tetrahydrofuran, and the mixture was stirred at −10° C. for 30 min. To the reaction solution was added N,N-dimethylformamide (8.65 mL), and the mixture was stirred at −10° C. for 3 hr. To the reaction mixture was added saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The extract was washed successively with water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:99-10:90, volume ratio) to give the title compound (7.47 g, yield 83%) as a pale-yellow oil.

reactant | butylmagnesium chloride | C(CCC)[Mg]Cl
reactant | n-butyllithium | C(CCC)[Li]
reactant | 2-bromo-5-(2-methylprop-1-en-1-yl)pyridine | 50 mL, 11.9 g | BrC1=NC=C(C=C1)C=C(C)C | C9H10BrN
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 2.0M, 11.2 mL | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 8.65 mL | CN(C=O)C | C3H7NO
solvent | hexane | 1.6M, 28.1 mL | CCCCCC | C6H14
product | 5-(2-methylprop-1-en-1-yl)pyridine-2-carbaldehyde | 7.47 g, yield 83% | CC(=CC=1C=CC(=NC1)C=O)C | C10H11NO
